US08975406B2
5-Bromo-3-fluoro-N-methoxy-N-methylpicolinamide (0.63 g, 2.4 mmol) was stirred in THF (12 mL) at 60° C. Diisobutylaluminium hydride (1 M in THF, 2.8 mL, 2.8 mmol) was added dropwise and the reaction mixture stirred below 50° C. for 2 h. Further diisobutylaluminium hydride (1 M in THF, 0.85 mL, 0.85 mmol) was added and the reaction mixture allowed to warm to 16° C. over 2 h. Rochelles salt solution (sat. aq.) was added and the aqueous phase extracted with EtOAc. The combined organics were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography using silica gel and eluting with 10-70% EtOAc in isohexanes to afford 5-bromo-3-fluoropicolinaldehyde.

reactant | 5-Bromo-3-fluoro-N-methoxy-N-methylpicolinamide | 2.4 mmol, 0.63 g | BrC=1C=C(C(=NC1)C(=O)N(C)OC)F | C8H8BrFN2O2
reactant | Diisobutylaluminium hydride | 2.8 mmol, 1 M, 2.8 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | diisobutylaluminium hydride | 0.85 mmol, 1 M, 0.85 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 5-bromo-3-fluoropicolinaldehyde | BrC=1C=C(C(=NC1)C=O)F | C6H3BrFNO
